US06331538B1
3-Benzyloxy-7-chloro-1-cyclopropyl-6-fluoro-1H-quinazoline-2,4-dione
A solution of N-benzyloxy-4-chloro-2-cyclopropylamino-5-fluoro-benzamide (Example D-3, 3.00 g, 8.96 mmol) in 1,4-dioxane (50 mL) was reacted with a 20% solution of phosgene (7.00 mL, 9.86 mmol) in toluene in a sealed tube. The mixture was heated to reflux for 24 hours, then cooled and quenched with H2O. The mixture was extracted three times with ethyl acetate, the organic layers combined, dried with sodium sulfate, and concentrated. The residue was then purified by column chromatography (silica gel, 1:1 hexanes/ethyl acetate) to provide 1.5 g of the title compound as a solid.

reactant | N-benzyloxy-4-chloro-2-cyclopropylamino-5-fluoro-benzamide | 8.96 mmol, 3.00 g | C(C1=CC=CC=C1)ONC(C1=C(C=C(C(=C1)F)Cl)NC1CC1)=O | C17H16ClFN2O2
reactant | phosgene | 9.86 mmol, 7.00 mL | C(=O)(Cl)Cl | CCl2O
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-Benzyloxy-7-chloro-1-cyclopropyl-6-fluoro-1H-quinazoline-2,4-dione | 1.5 g | C(C1=CC=CC=C1)ON1C(N(C2=CC(=C(C=C2C1=O)F)Cl)C1CC1)=O | C18H14ClFN2O3
